US08404663B2
NaBH4 (1.8 g, 47 mmol) was added slowly to the solution of (2E)-3-(3,4-dimethylphenyl)-2-(3-methoxyphenyl)acrylonitrile (6.17 g, 23.5 mmol) in EtOH (100 mL) under argon. The mixture was stirred at 70° C. for 16 h. The solution was cooled to room temperature and quenched with water. The reaction mixture was diluted with 100 mL water and acidified with 6M HCl (aq.). After extraction with ether (3×100 mL), the combined organic layers were washed with water and brine, dried over MgSO4, filtered and concentrated to get 3-(3,4-dimethylphenyl)-2-(3-methoxyphenyl)propanenitrile as a white solid (6 g, 96%).

reactant | NaBH4 | 47 mmol, 1.8 g | [BH4-].[Na+]
reactant | (2E)-3-(3,4-dimethylphenyl)-2-(3-methoxyphenyl)acrylonitrile | 23.5 mmol, 6.17 g | CC=1C=C(C=CC1C)/C=C(/C#N)\C1=CC(=CC=C1)OC | C18H17NO
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3-(3,4-dimethylphenyl)-2-(3-methoxyphenyl)propanenitrile | 6 g, 96% | CC=1C=C(C=CC1C)CC(C#N)C1=CC(=CC=C1)OC | C18H19NO
